US06906055B2
Benzhydryl 7β-amino-3-[4-(4-pyridyl)-2-thiazolylthio]-3-cephem-4-carboxylate
Benzhydryl 7β-phenylacetylamino-3-[4-(4-pyridyl)-2-thiazolylthio]-3-cephem-4-carboxylate (4.15 g, 6.0 mmol) was dissolved in dichloromethane (60 mL) and pyridine (0.726 mL, 9.0 mmol) and phosphorus pentachloride (1.87 g, 9.0 mmol) were successively added under ice-cooling. The mixture was stirred under ice-cooling for 1 hr. Isobutanol (8.0 mL) was added at once to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. Isopropyl ether (300 mL) was added dropwise and the mixture was stirred for 10 min. The solvent was removed by decantation. The residual oil was suspended in ethyl acetate (600 mL) and saturated aqueous sodium hydrogencarbonate solution (200 mL) was added dropwise, after which the mixture was stirred for 15 min. The organic layer was separately taken, dried over magnesium sulfate and filtrated. The solvent was evaporated off under reduced pressure. Isopropyl ether (60 mL) was added to the residue, and the precipitated powder was collected by filtration, washed with isopropyl ether (20 mL) and dried under reduced pressure. yield: 3.18 g (95%)

reactant | Benzhydryl 7β-phenylacetylamino-3-[4-(4-pyridyl)-2-thiazolylthio]-3-cephem-4-carboxylate | 6.0 mmol, 4.15 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC=2SC=C(N2)C2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C36H28N4O4S3
reactant | pyridine | 9.0 mmol, 0.726 mL | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 9.0 mmol, 1.87 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Isopropyl ether | 300 mL | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | Isobutanol | 8.0 mL | C(C(C)C)O | C4H10O
product | Benzhydryl 7β-amino-3-[4-(4-pyridyl)-2-thiazolylthio]-3-cephem-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CS2)SC=2SC=C(N2)C2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H22N4O3S3
